US05118443
15 g of aluminium is dissolved in 2,720 g (20 moles) of para-isopropylphenol in a five-necked flask having an inner capacity of 5,000 ml, followed by reaction with 1,176 g (7 moles) of isododecene (propylene tetramer) in the same manner as in Example 2 to obtain 1,608 g of 2-isododecyl-4-isopropylphenol. This product has a hydroxyl value of 184.0 (the theoretical: 184.3) and a boiling point of 152° C. to 160° C. under a vacuum of 1.2 Torr.

reactant | aluminium | 15 g | [Al] | Al
reactant | para-isopropylphenol | 20 moles, 2,720 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | isododecene | 7 moles, 1,176 g | C=CCCCCCCCC(C)C | C12H24
product | 2-isododecyl-4-isopropylphenol | 1,608 g | C(CCCCCCCCC(C)C)C1=C(C=CC(=C1)C(C)C)O | C21H36O
